US07119221B2
Under an N2 atmosphere at ˜7° C., BuLi (2.5M in hexanes, 52.8 mL, 132 mmol) was added drop wise to a solution of iPr2NH (18.52 mL, 132 mmol, distilled from NaOH) in dry THF (70 mL) in 10 min. The reaction mixture was allowed to warm to rt, stirred for 0.5 h, cooled to −60° C. and then, ethyl 1-cyclobutanecarboxylate (prepared according to Török, B.; Molnár, Á., J. Chem. Soc. Perkin Trans. 1, 1993, 7, 801–804, 14.05 g, 110 mmol) in dry THF (30 mL) was added dropwise in 20 min. The resulting mixture was allowed to warm to 0° C. in 20 min., cooled again to −60° C. and then, a solution of 1-bromo-4-chlorobutane (19.1 mL, 165 mmol) in dry THF (30 mL) was added dropwise in 20 min, after which the temperature was raised to −20° C. in 15 min. After 1.5 h, the temperature was raised to −10° C. and stirring was continued for 1 h. The reaction mixture was allowed to reach rt, poured into a mixture of aqueous saturated NH4Cl (200 mL) and ice (50 mL) and extracted with Et2O (500 mL). The organic layer was washed with brine (250 mL), dried (Na2SO4) and evaporated in vacuo. The remaining oil was purified by fractional distillation under reduced pressure to give ethyl 1-(4-chlorobutyl)-1-cyclobutanecarboxylate (20.53 g, 86%) as a thin, colorless oil. 1H NMR (CDCl3): δ=4.13 (q, J=7.1 Hz, 2H), 3.51 (t, J=6.8 Hz, 2H), 2.50–2.32 (m, 2H), 1.96–1.70 (m, 8H), 1.40–1.20 (m, 2H), 1.26 (t, J=7.2 Hz, 3H). 13C NMR (CDCl3): δ=176.6, 60.3, 47.6, 44.8, 37.3, 32.8, 30.1 (2×), 22.4, 15.8, 14.4. HRMS calcd for C11H20(37Cl)O2 (MH+): 221.1122, found: 221.1116.

reactant | BuLi | 132 mmol, 2.5M, 52.8 mL | [Li]CCCC
reactant | iPr2NH | 132 mmol, 18.52 mL | N(C(C)C)C(C)C | C6H15N
reactant | ethyl 1-cyclobutanecarboxylate | 110 mmol, 14.05 g | C1(CCC1)C(=O)OCC | C7H12O2
reactant | 1-bromo-4-chlorobutane | 165 mmol, 19.1 mL | BrCCCCCl | C4H8BrCl
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 1-(4-chlorobutyl)-1-cyclobutanecarboxylate | 20.53 g, 86% | ClCCCCC1(CCC1)C(=O)OCC | C11H19ClO2
